US07968563B2
7-(Benzyloxy)-2-(chloromethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine (2.3 g, 5.26 mmol) and triethylamine (1.6 g, 15.78 mmol) were added to a solution of methoxylamine hydrochloride (0.88 g, 10.52 mmol) in N,N-dimethylformamide (DMF) (11 mL). The reaction was heated with stirring for 40 hours at 50° C., allowed to cool to ambient temperature, and partitioned between dichloromethane (50 mL) and water (50 mL). The aqueous layer was extracted with another portion of dichloromethane (50 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by column chromatography using a HORIZON HPFC system equipped with a FLASH 40+M silica cartridge eluting with dichloromethane:methanol in a gradient from 100:0 to 90:10. The resulting product (1.0 g) was recrystallized from acetonitrile, and the crystals were isolated by filtration, washed with acetonitrile, and dried overnight in a vacuum oven at 65° C. to provide 0.85 g of 7-(benzyloxy)-2-[(methoxyamino)methyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a yellow, crystalline solid, mp 190-193° C.

reactant | 7-(Benzyloxy)-2-(chloromethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.26 mmol, 2.3 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCOCC3)CCl | C24H25ClN4O2
reactant | triethylamine | 15.78 mmol, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | methoxylamine hydrochloride | 10.52 mmol, 0.88 g | Cl.O(C)N
solvent | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
product | 7-(benzyloxy)-2-[(methoxyamino)methyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.85 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCOCC3)CNOC | C25H29N5O3
